US06759410B1
a) 2-Benzylamino-6-phenylbenzonitrile
The product of example 1a above, 2-fluoro-6-phenylbenzonitrile, (0.118 g, 0.6 mmol), and benzylamine (0.5 mL) were combined in a sealed tube that had been flushed with argon. The tube was heated in an oil bath to 150° C. for 24 hours. The residue was dissolved in methylene chloride (10 mL) and treated with an excess of polystyrene supported isocyanate resin for 30 minutes to remove the excess benzylamine. Filtration and evaporation gave the title product. ES (+) MS m/e=285 (MH+)

reactant | 2-fluoro-6-phenylbenzonitrile | 0.6 mmol, 0.118 g | FC1=C(C#N)C(=CC=C1)C1=CC=CC=C1 | C13H8FN
reactant | benzylamine | 0.5 mL | C(C1=CC=CC=C1)N | C7H9N
product | 2-Benzylamino-6-phenylbenzonitrile | C(C1=CC=CC=C1)NC1=C(C#N)C(=CC=C1)C1=CC=CC=C1 | C20H16N2
